US08791107B2
5-benzyl-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
5-Benzyl-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x39, 200 mg, 0.605 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (294 mg, 1.209 mmol), and PdCl2(dppf) (22.12 mg, 0.030 mmol) was suspended in dioxane (3 mL) and aqueous saturated NaHCO3 (0.6 mL). The resulting brown suspension was heated to 100° C. for 18 hours, then diluted with ethyl acetate and washed with aqueous saturated NH4Cl (3×5 mL) and brine (3×5 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give crude product, which was loaded onto an ISCO® silica gel cartridge (12 g) and eluted using an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a white solid (80 mg, 32%). 1H NMR (400 MHz, DMSO-d6) δ 3.06-3.19 (m, 1H), 3.58-3.74 (m, 2H), 4.01-4.12 (m, 1H), 4.25-4.34 (m, 1H), 4.49-4.63 (m, 2H), 5.12-5.31 (m, 2H), 7.11-7.18 (m, 1H), 7.24-7.40 (m, 6H), 7.40-7.44 (m, 1H), 7.46-7.51 (m, 1H), 7.99-8.03 (m, 1H), 8.04-8.07 (m, 1H), 11.20-11.26 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C24H21N5O2, 412.17. found 412.4.

reactant | 5-Benzyl-2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.605 mmol, 200 mg | C(C1=CC=CC=C1)N1C=2C=NC(=NC2N2C(C1=O)COCC2)Cl | C16H15ClN4O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 1.209 mmol, 294 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | NaHCO3 | 0.6 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 0.030 mmol, 22.12 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-benzyl-2-(1H-indol-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 80 mg, 32% | C(C1=CC=CC=C1)N1C=2C=NC(=NC2N2C(C1=O)COCC2)C2=C1C=CNC1=CC=C2 | C24H21N5O2
